US04758559
A mixture of 500 g of methyl anthranilate and 438 g of 2,5-dimethoxytetrahydrofuran in 670 ml of glacial acetic acid is heated at reflux temperature for 11/2 hours. The acetic acid is then evaporated under reduced pressure and the residue is distilled to yield methyl 2-(1H-pyrrol-1-yl)-benzoate, b.p. 109°/0.1 mm Hg.

reactant | methyl anthranilate | 500 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | 2,5-dimethoxytetrahydrofuran | 438 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 670 ml | C(C)(=O)O | C2H4O2
product | methyl 2-(1H-pyrrol-1-yl)-benzoate | N1(C=CC=C1)C1=C(C(=O)OC)C=CC=C1 | C12H11NO2
